US08633173B2
N-[3-(2-Amino-[1,2,4]triazolo[1,5-a]pyridin-5-yl)-phenyl]-methanesulfonamide was prepared from 5-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (1.80 g, 8.45 mmol) and 3-methylsulfonylaminophenyl boronic acid (2.0 g, 9.30 mmol), in a manner analogous to Step 73c. The residue was purified on an 80 g Isco silica gel column using a gradient of 0-7% methanol in dichloromethane as an eluent. N-[3-(2-Amino-[1,2,4]triazolo[1,5-a]pyridin-5-yl)-phenyl]-methanesulfonamide (461 mg, 18%) was isolated as a beige powder. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.94 (s, 1H), 7.72 (s, 1H), 7.64 (d, J=7.5 Hz, 1H), 7.51 (m, 2H), 7.38 (d, J=8.6 Hz, 1H), 7.32 (d, J=7.5 Hz, 1H), 6.97 (d, J=7.5 Hz, 1H), 6.03 (br s, 2H), 3.08 (s, 3H). MS=304 (MH)+.

reactant | 5-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 8.45 mmol, 1.80 g | BrC1=CC=CC=2N1N=C(N2)N | C6H5BrN4
reactant | 3-methylsulfonylaminophenyl boronic acid | 9.30 mmol, 2.0 g | CS(=O)(=O)NC=1C=C(C=CC1)B(O)O | C7H10BNO4S
product | N-[3-(2-Amino-[1,2,4]triazolo[1,5-a]pyridin-5-yl)-phenyl]-methanesulfonamide | 461 mg, 18% | NC1=NN2C(C=CC=C2C=2C=C(C=CC2)NS(=O)(=O)C)=N1 | C13H13N5O2S
